US08076359B2
Step 3: Methyl 3,5-bis(3-methoxypropyl)benzoate
To a solution of methyl 3,5-bis[(1E)-3-methoxyprop-1-en-1-yl]benzoate (1 eq.) from the previous step in refluxing toluene was added benzenesulfonohydrazide (5 eq) in five portions over 2 h. The reaction was stirring as reflux for 18 h. After cooling to rt, the reaction was diluted with ether. The organic extract was washed with 1 N aqueous HCl, brine, dried over MgSO4, and concentrated in vacuo. The crude product was purified by flash column chromatography (SiO2, 20% EtOAc in Hex) to afford the title compound as an oil.

reactant | methyl 3,5-bis[(1E)-3-methoxyprop-1-en-1-yl]benzoate | 1 eq. | COC/C=C/C=1C=C(C(=O)OC)C=C(C1)\C=C\COC | C16H20O4
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | benzenesulfonohydrazide | 5 eq | C1(=CC=CC=C1)S(=O)(=O)NN | C6H8N2O2S
solvent | ether | CCOCC | C4H10O
product | Methyl 3,5-bis(3-methoxypropyl)benzoate | COCCCC=1C=C(C(=O)OC)C=C(C1)CCCOC | C16H24O4
